US07732604B2
Preparation of 7-fluoro-6-{[6-(1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl]methyl}-quinoline
To a suspension of 6-[(6-bromo-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl]-7-fluoroquinoline (250 mg, 0.696 mmol) and 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-pyrazole-1-carboxylic acid tert-butyl ester (225 mg, 0.766 mmol) in dimethoxyethane (8.0 ml) was added CsF (317 mg, 2.09 mmol) and water (1.05 ml) at R.T. After degassed several times, to the suspension, 1,1′-bis(diphenylphosphino)ferrocenedichloro palladium (11) 1:1 complex with CH2Cl2 (25.5 mg, 0.04 mmol) was added and the reaction mixture was degassed again. After stirring at 85° C. for 16 h, the reaction mixture was cooled down to R.T. diluted with water (10 ml) and filtered. The aqueous layer was extracted with CH2Cl2 (2×50 ml) EtOAc (1×10 ml). The combined the organic layer was dried with K2CO3 filtered and combined this with the solid filtered initially, and concentrated under reduced pressure. The resulting residue was purified via flash column chromatography eluted with 0-7% CH2Cl2:MeOH to give the desired product (220 mg 91%). 1H NMR (400 MHz, DMSO-d6) δ ppm 6.18 (s, 2H) 7.53 (dd, J=8.21, 4.17 Hz, 2H) 7.84 (d, J=11.37 Hz, 1H) 8.17 (d, J=8.59 Hz, 1H) 8.29 (s, 1H) 8.41-8.46 (m, 1H) 8.70 (s, 1H) 8.92 (dd, J=4.29, 1.77 Hz, 1H) 9.25 (s, 1H).

reactant | 6-[(6-bromo-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl]-7-fluoroquinoline | 0.696 mmol, 250 mg | BrC1=CN=C2C(=N1)N(N=N2)CC=2C=C1C=CC=NC1=CC2F | C14H8BrFN6
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-pyrazole-1-carboxylic acid tert-butyl ester | 0.766 mmol, 225 mg | C(C)(C)(C)OC(=O)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C14H23BN2O4
reactant | CsF | 2.09 mmol, 317 mg | [F-].[Cs+]
reactant | CH2Cl2 | 0.04 mmol, 25.5 mg | C(Cl)Cl | CH2Cl2
solvent | dimethoxyethane | 8.0 ml | C(OC)COC | C4H10O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocenedichloro palladium (11) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 1.05 ml | O | H2O
product | 7-fluoro-6-{[6-(1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl]methyl}-quinoline | 220 mg, 91% | FC1=C(C=C2C=CC=NC2=C1)CN1N=NC=2C1=NC(=CN2)C=2C=NNC2 | C17H11FN8
